US06291452B1
To a solution of (3RS)-3-benzyloxycarbonylamino-5-cyclohexyl-2,3-dihydro-9-methyl-1-[N-methyl-N-(2-pyridyl)amino]carbonylmethyl-1H-1,4-benzodiazepin-2-one (400 mg) in tetrahydrofuran (4 ml) was added cyclohexyl magnesium chloride (1.08 ml) under stirring, at 0° C. The mixture was stirred for twenty minutes under the same conditions and at room temperature overnight. Ethyl acetate and a saturated aqueous solution of ammonium chloride were added to the reaction mixture. The separated organic layer was washed with 0.1N aqueous hydrochloric acid, water, a saturated aqueous sodium bicarbonate solution and brine successively and dried under magnesium sulfate. The solvent was removed in vacuo to afford a residue, which was subjected to column chromatography on silica gel eluting with a mixture of toluene and ethyl acetate (20:1) to give (3RS)-3-benzyloxycarbonylamino-5-cyclohexyl-1-cyclohexylcarbonylmethyl-2,3-dihydro-9-methyl-1H-1,4-benzodiazepin-2-one.

reactant | (3RS)-3-benzyloxycarbonylamino-5-cyclohexyl-2,3-dihydro-9-methyl-1-[N-methyl-N-(2-pyridyl)amino]carbonylmethyl-1H-1,4-benzodiazepin-2-one | 400 mg | C(C1=CC=CC=C1)OC(=O)NC1C(N(C2=C(C(=N1)C1CCCCC1)C=CC=C2C)CC(=O)N(C2=NC=CC=C2)C)=O | C32H35N5O4
reactant | cyclohexyl magnesium chloride | 1.08 ml | C1(CCCCC1)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (3RS)-3-benzyloxycarbonylamino-5-cyclohexyl-1-cyclohexylcarbonylmethyl-2,3-dihydro-9-methyl-1H-1,4-benzodiazepin-2-one | C(C1=CC=CC=C1)OC(=O)NC1C(N(C2=C(C(=N1)C1CCCCC1)C=CC=C2C)CC(=O)C2CCCCC2)=O | C32H39N3O4
